US06255344B1
Preparation of N-octyloxycarbonyl-β-alanyl-L-histidine
30 g of N-octyloxycarbonyl-62 -alanine were dissolved in 300 ml of dimethylformamide and 1 molar equivalent of triethylamine. Next, 1 molar equivalent of 2-(5-norbornene-2,3-dicarboximido)-1,1,3,3-tetramethyluronium tetrafluoroborate was added. The mixture was then stirred for 1 hour at a temperature of 25° C. Next, a solution containing 1.2 molar equivalents of histidine and 1.2 molar equivalents of sodium hydroxide in 100 ml of water were added dropwise, while keeping the temperature below 30° C. After stirring for 6 hours, the mixture was neutralized with 1 molar equivalent of 5N hydrochloric acid, followed by 100 ml of water. After stirring for 30 minutes, the mixture was poured into 2 liters of acetone. The white precipitate formed was filtered off and dried. The crude product was dissolved in 10 ml/g of refluxing 96% ethanol. The solution was filtered while hot and the product then crystallized at room temperature. After processing the precipitate, 29.4 g of a white crystalline product were obtained (63% yield).

reactant | 2-(5-norbornene-2,3-dicarboximido)-1,1,3,3-tetramethyluronium tetrafluoroborate | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C(=O)C2[C@@H]3C[C@H](C2C1=O)C=C3
reactant | histidine | N[C@@H](CC1=CNC=N1)C(=O)O | C6H9N3O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 5N | Cl | ClH
reactant | water | 100 ml | O | H2O
reactant | water | 100 ml | O | H2O
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | acetone | 2 liters | CC(=O)C | C3H6O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-octyloxycarbonyl-β-alanyl-L-histidine | 29.4 g, 63% yield | C(CCCCCCC)OC(=O)NCCC(=O)N[C@@H](CC1=CNC=N1)C(=O)O | C18H30N4O5
